US20010027196A1
2-Amino-4-furan-2-yl-6-(5-methyl-pyridin-2-yl-methoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, (5-methyl-pyridin-2-yl)methanol and DBU in DME. EI-MS m/e (%): 307 (M+, 76), 290 (28), 278 (16), 122 (100), 106 (78), 79 (30), 77 (38).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | (5-methyl-pyridin-2-yl)methanol | CC=1C=CC(=NC1)CO | C7H9NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-(5-methyl-pyridin-2-yl-methoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)OCC1=NC=C(C=C1)C | C16H13N5O2
